US06329392B1
1-(3,4,5-Trimethoxy-benzyl)-3-[2-[4-[1-(4-fluoro-benzyl)-1H-benzoimidazol-2-yl]-4-hydroxy-piperidin-1-yl]-ethyl]-3-(3,4-dimethoxy-phenylmethyl)-2-oxo-pyrrolidine
Prepare by the method of Example 6.6.2 using 1-(3,4,5-trimethoxy-benzyl)-3-(3,4-dimethoxy-phenylmethyl)-3-(2-methanesulfonyl-ethyl)-2-oxo-pyrrolidine and 4-[1-(4-fluoro-benzyl)-1H-benzoimidazol-2-yl]-4-hydroxy-piperidine to give the title compound: Rf=0.58 (silica gel, 10% methanol/ethyl acetate).

reactant | 1-(3,4,5-trimethoxy-benzyl)-3-(3,4-dimethoxy-phenylmethyl)-3-(2-methanesulfonyl-ethyl)-2-oxo-pyrrolidine | COC=1C=C(CN2C(C(CC2)(CCS(=O)(=O)C)CC2=CC(=C(C=C2)OC)OC)=O)C=C(C1OC)OC | C26H35NO8S
reactant | 4-[1-(4-fluoro-benzyl)-1H-benzoimidazol-2-yl]-4-hydroxy-piperidine | FC1=CC=C(CN2C(=NC3=C2C=CC=C3)C3(CCNCC3)O)C=C1 | C19H20FN3O
product | 1-(3,4,5-Trimethoxy-benzyl)-3-[2-[4-[1-(4-fluoro-benzyl)-1H-benzoimidazol-2-yl]-4-hydroxy-piperidin-1-yl]-ethyl]-3-(3,4-dimethoxy-phenylmethyl)-2-oxo-pyrrolidine | COC=1C=C(CN2C(C(CC2)(CC2=CC(=C(C=C2)OC)OC)CCN2CCC(CC2)(O)C2=NC3=C(N2CC2=CC=C(C=C2)F)C=CC=C3)=O)C=C(C1OC)OC | C44H51FN4O7
